US03939276
A mixture of 2-acetyl-7-bromofluorene (13.2 g.) and cuprous cyanide (8.2 g.) in quinoline (40 ml.) was heated to reflux for 40 minutes, cooled to 100° and poured into a mixture of ice-cold dilute aqueous ammonia and dichloromethane. The organic layer was separated, filtered to remove a yellow solid, washed with N-hydrochloric acid, dried over sodium sulphate and evaporated. The residual solid was recrystallised from ethanol containing a small amount of dimethylformamide to give 2-acetyl-7-cyanofluorene m.p. 182°-188°.

reactant | 2-acetyl-7-bromofluorene | 13.2 g | C(C)(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)Br | C15H11BrO
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | quinoline | 40 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
product | 2-acetyl-7-cyanofluorene | C(C)(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C#N | C16H11NO
